US05112895
TP-95:
a mixture of 30 mole % dibutoxydiethoxyethyl adipate and 70 mole % dibutoxydiethoxyethyl glutarate purchased from Morton Thioko, Inc. under the tradename "TP-759 Plasticizer".

reactant | dibutoxydiethoxyethyl adipate | C(CCCCC(=O)[O-])(=O)OC(C(OCC)OCC)(OCCCC)OCCCC
reactant | dibutoxydiethoxyethyl glutarate | C(CCCC(=O)[O-])(=O)OC(C(OCC)OCC)(OCCCC)OCCCC
product | TP-95 | CCCCOCCOCCOC(=O)CCCCC(=O)OCCOCCOCCCC | C22H42O8
